US09376436B2
To a Smith microwave vial was added (2R,5S)-2-[4-(2-fluoro-5-hydroxy-phenyl)-2-pyridyl]-7-methyl-1,7-diazaspiro[4.4]nonan-6-one (which may be prepared as described in Description 134) (66.5 mg, 0.1900 mmol), triphenyl phosphine (102.19 mg, 0.3900 mmol), Di-tert-butyl azodicarboxylate ((89.71 mg, 0.3900 mmol) and 2-fluoroethanol (0.02 mL, 0.2900 mmol) in THF (0.5000 mL). Toluene (1 mL) was added. The reaction mixture was heated by microwave at 120° C. for 45 min. The reaction mixture was eluted on an SCX-2 cartrige (0.5 g) and washed with DCM followed MeOH. The desired product was eluted off the cartridge with ammonia in MeOH (0.2M). Evaporation of solvents gave colourless oil. The crude residue was purified by silica gel chromatography (KPNH silica 11 g) eluting with ethyl acetate in iso-hexane (10-100%) followed by methanol in ethyl acetate (0-18%). Evaporation of desired fractions gave colourless oil. It was further purified by a ChiralPak IA column eluting with ethanol/n-heptane (20%:80%) to give 2R,5S)-2-[4-[2-fluoro-5-(2-fluoroethoxyl)phenyl]-2-pyridyl]-7-methyl-1,7-diazaspiro[4.4]nonan-6-one;

reactant | (2R,5S)-2-[4-(2-fluoro-5-hydroxy-phenyl)-2-pyridyl]-7-methyl-1,7-diazaspiro[4.4]nonan-6-one | 0.1900 mmol, 66.5 mg | FC1=C(C=C(C=C1)O)C1=CC(=NC=C1)[C@@H]1N[C@]2(CC1)C(N(CC2)C)=O | C19H20FN3O2
reactant | triphenyl phosphine | 0.3900 mmol, 102.19 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Di-tert-butyl azodicarboxylate | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | 2-fluoroethanol | 0.2900 mmol, 0.02 mL | FCCO | C2H5FO
solvent | THF | 0.5000 mL | C1CCOC1 | C4H8O
solvent | Toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[4-[2-fluoro-5-(2-fluoroethoxyl)phenyl]-2-pyridyl]-7-methyl-1,7-diazaspiro[4.4]nonan-6-one | FC1=C(C=C(C=C1)OCCF)C1=CC(=NC=C1)C1NC2(CC1)C(N(CC2)C)=O | C21H23F2N3O2
